US08609897B2
A 2 L 3-neck round bottom flask equipped with a nitrogen bubbler, thermocouple, stir bar, heating mantle and condenser was charged with 4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexanol (94.7 g, 201 mmol) in THF (1 L). Trifluoromethanesulfonamide (45.0 g, 302 mmol) and triphenylphosphine (79 g, 302 mmol) were added, followed by DIAD (0.059 L, 302 mmol,) which was added dropwise over 20 min. The reaction was heated to 60° C. and stirred for 18 hrs at 60° C. The reaction was concentrated and dissolved in CH2Cl2 and purified by column chromatography on silica gel, eluting with ethyl acetate/heptanes to provide 1,1,1-trifluoro-N-(4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexyl)methanesulfonamide.

reactant | 4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexanol | 201 mmol, 94.7 g | FC=1C=CC(=C(C1)C1(CCC(CC1)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C20H17F7O3S
reactant | Trifluoromethanesulfonamide | 302 mmol, 45.0 g | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
reactant | triphenylphosphine | 302 mmol, 79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 302 mmol, 0.059 L | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 1,1,1-trifluoro-N-(4-[5-fluoro-2-(trifluoromethyl)phenyl]-4-{[4-(trifluoromethyl)phenyl]sulfonyl}cyclohexyl)methanesulfonamide | FC(S(=O)(=O)NC1CCC(CC1)(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C1=C(C=CC(=C1)F)C(F)(F)F)(F)F | C21H17F10NO4S2
